US08067426B2
6-Amino-2-[(1-methylethyl)oxy]-9-[5-(1-piperidinyl)pentyl]-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 29 from 9-(5-chloropentyl)-2-[(1-methylethyl)oxy]-8-(methyloxy)-9H-purin-6-amine and piperidine.

reactant | 9-(5-chloropentyl)-2-[(1-methylethyl)oxy]-8-(methyloxy)-9H-purin-6-amine | ClCCCCCN1C2=NC(=NC(=C2N=C1OC)N)OC(C)C | C14H22ClN5O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 6-Amino-2-[(1-methylethyl)oxy]-9-[5-(1-piperidinyl)pentyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OC(C)C)CCCCCN1CCCCC1)=O | C18H30N6O2
